US05137653
Then, the same procedure as in Example 1 was repeated except that the above (+)-2-methyl decanoic acid was used instead of (+)-2-methyl butanoic acid to convert this compound into an acid chloride, which was reacted with phenol through aluminum chloride in methylene chloride to obtain (+)-4-(2-methyldecanoyl) phenol having the aforementioned physical and chemical properties at a yield of 40%.

reactant | (+)-2-methyl decanoic acid | CC(C(=O)O)CCCCCCCC | C11H22O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (+)-4-(2-methyldecanoyl) phenol | yield of 40% | CC(C(=O)C1=CC=C(C=C1)O)CCCCCCCC | C17H26O2
